US09227963B2
(3-bromotricyclo[3.3.1.13,7]dec-1-yl)methanol
In a 250 ml round-bottomed flask, 3-bromoadamantane-1-carboxylic acid (7.89 g) was dissolved in tetrahydrofuran (30 mL). Borane tetrahydrofuran complex (1M in hexane, 60 mL) was added slowly. The mixture was stirred at room temperature overnight. Methanol (20 mL) was added to the solution slowly. After removal of the solvents, methanol (5 mL) was added to the oily residue. Removal of the solvent provided the title compound.

reactant | Borane tetrahydrofuran | 1M, 60 mL | O1CCCC1.B
reactant | Methanol | 20 mL | CO | CH4O
reactant | 3-bromoadamantane-1-carboxylic acid | 7.89 g | BrC12CC3(CC(CC(C1)C3)C2)C(=O)O | C11H15BrO2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | (3-bromotricyclo[3.3.1.13,7]dec-1-yl)methanol | BrC12CC3(CC(CC(C1)C3)C2)CO | C11H17BrO
